US06191124B1
A suspension of 2-[[(Dimethylamino)methylene]amino]-3-(2-ethoxy-2-oxoethyl)-5,6-dihydro-4H-cyclopentathiazolium bromide (Formula E-3) (4.0 g) in DMF (20 mL) dissolved on addition of DBU (2.48 mL). The solution was reacted at 25° for 18 hours, poured into cold 10% acetic acid solution, and precipitated 6,7-Dihydro-5H-cyclopent[d]imidazo[2,1-b]thiazole-3-carboxylic acid ethyl ester (Formula E-4) (1.95 g) was filtered. Crystallization of an aliquot from isopropanol gave pure 6,7-Dihydro-5H-cyclopent[d]imidazo[2,1-b]thiazole-3-carboxylic acid ethyl ester (Formula E-4), m.p. 101-102°.

reactant | 2-[[(Dimethylamino)methylene]amino]-3-(2-ethoxy-2-oxoethyl)-5,6-dihydro-4H-cyclopentathiazolium bromide | 4.0 g | [Br-].CN(C)C=NC=1SC2=C([N+]1CC(=O)OCC)CCC2
reactant | DBU | 2.48 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 6,7-Dihydro-5H-cyclopent[d]imidazo[2,1-b]thiazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=CN=C2SC3=C(N21)CCC3 | C11H12N2O2S
